### PR TITLE
feat: add basics of majorization

### PR DESCRIPTION
**Pull request by dupuisf**
This PR defines [majorization](https://en.wikipedia.org/wiki/Majorization). This is needed to develop the theory of unitarily invariant norms on `ℂ^n`, in particular Schatten norms.

---

- [ ] depends on: #33394

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Convex/Majorization/Defs.lean [hunk 1]
```diff
@@ -0,0 +1,158 @@
...
+variable {n m R : Type*} [Fintype n] [LinearOrder R] [Semiring R]
+  [Fintype m]
+
+open Function Finset
+
+/-- The sum of the `k` smallest elements of `x`. -/
+irreducible_def incSum (k : ℕ) (x : n → R) : R :=
+  if h : k ≤ card n then
+    min' ((powersetCard k (univ : Finset n)).image fun s => ∑ i ∈ s, x i) <| by simp [h]
+  else ∑ i, x i
```
Comment (j-loreaux) [inline Mathlib/Analysis/Convex/Majorization/Defs.lean:67]: On the one hand, I'm very sad here, because there's an entire theory of majorization (with connections to operators) in the infinite dimensional setting too. I suspect that it will be very hard to unify these concepts, but this definition especially makes it very challenging.

I wonder why you chose this approach, as opposed to say, defining the increasing/decreasing rearrangements of `x`?

To answer my own question in part (although I would still like to hear from your about it), one annoying thing about the rearrangement is that it's type would be `Fin _ → R` where the `_` is some annoying beast that depends on `n`.

What might be nice is to define the increasing and decreasing rearrangements *when `n` is a well-ordered type* because you can just reuse it as your index type.

File: Mathlib/Analysis/Convex/Majorization/Defs.lean [hunk 2]
```diff
@@ -0,0 +1,158 @@
...
+open scoped Majorization
+
+lemma isSubmajorizedBy_def (x : m → R) (y : n → R) :
+  x ≼ₛ y ↔ ∀ k, decSum k x ≤ decSum k y := Iff.rfl
+
+lemma isSupermajorizedBy_def (x : m → R) (y : n → R) :
+  x ≼ˢ y ↔ ∀ k, incSum k y ≤ incSum k x := Iff.rfl
+
+lemma isMajorizedBy_def (x : m → R) (y : n → R) :
+  x ≼ y ↔ x ≼ₛ y ∧ ∑ i, x i = ∑ i, y i := Iff.rfl
```
Comment (j-loreaux) [inline Mathlib/Analysis/Convex/Majorization/Defs.lean:125]: so, I don't quite understand the purpose of `IsSupermajorizedBy`? In the literature I only ever see submajorization (but maybe I'm just not exposed to the same things you are).

This seems to be backed up by the fact that you have `IsMajorizedBy` which is opinionated (and agrees with the literature).

File: Mathlib/Analysis/Convex/Majorization/Defs.lean [hunk 3]
```diff
@@ -0,0 +1,158 @@
...
+
+@[trans]
+lemma IsMajorizedBy.trans {o : Type*} [Fintype o] {x : m → R} {y : n → R} {z : o → R}
+    (h₁ : x ≼ y) (h₂ : y ≼ z) : x ≼ z := by
+  rw [isMajorizedBy_def] at h₁ h₂ ⊢
+  exact ⟨h₁.1.trans h₂.1, by grind⟩
+
+instance transIsMajorizedByIsMajorizedBy {o : Type*} [Fintype o] :
+    @Trans (m → R) (n → R) (o → R) (· ≼ ·) (· ≼ ·) (· ≼ ·) where
+  trans := IsMajorizedBy.trans
```
Comment (j-loreaux) [inline Mathlib/Analysis/Convex/Majorization/Defs.lean:164]: You probably also want trans lemmas and instances for the various combinations: `≼ₛ → ≼ → ≼ₛ` and `≼ → ≼ₛ → ≼ₛ` etc.

File: Mathlib/Analysis/Convex/Majorization/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,528 @@
...
+* `mem_doublyStochastic_iff_forall_mulVec_isMajorizedBy`: A matrix `A` is doubly stochastic iff
+  `A *ᵥ x ≼ x` for all `x`.
+
+## Implementation notes
+
+There are several characterizations of this notion, and one that is more amenable to
+formalization (since it avoids having to introduce equivs to sort values), is the one that
+makes use of the fact that
+`∑ i ≤ k, x↓ i = max_{s, #s = k} ∑ i ∈ s, x i`
+and likewise for the increasing sum. This is what we take as the definition here.
```
Comment (j-loreaux) [inline Mathlib/Analysis/Convex/Majorization/Basic.lean]: ah, I see you've answered my question here (but if you have further things to say, please do).

This should be in the `Defs` file though.

I think one thing that could be very nice to do is to define the rearrangements like I said, but keep the main definitions in terms of `decSum` and `incSum`. Then internal to a proof, you could switch to the rearrangement version for convenience by placing a well-order instance on your type. Probably this needs `DecidableEq` or whatever, but inside a proof it doesn't matter.

One advantage of doing things this way: you can then have lots and lots of theorems which are just about partial sums of monotone/antitone functions. All those results would then automatically generalize to the infinite dimensional setting (where we would *also* define a "rearrangement" function).

**Review by j-loreaux — COMMENTED** [review]
Okay, I had a decent look at this, but before I continue to go into more depth, I want to have a ~~fight~~ discussion about the design choices.

I think there are maybe some significant improvements to be made (and read all the comments before you start replying, as I realized some things later).

File: Mathlib/Analysis/Convex/Majorization/Basic.lean (hunk 4 above)
Comment (dupuisf) [reply Mathlib/Analysis/Convex/Majorization/Basic.lean]: My first attempt at this actually used the rearrangements approach, and it was far more painful than what you see here. Having equivs all over the place to sort was annoying enough but still tolerable; the real pain came from dealing with intervals of `Fin n` and sums over those. `grind` is really bad at dealing with those (for reasons I don't understand), and you always have corner cases all over the place, even when you think it looks trivial.

But yes, we could also have the characterisation in terms of rearrangements also, it might turn out to be more convenient for some proofs. I'd rather do that in a separate PR though, this one is already big enough!

File: Mathlib/Analysis/Convex/Majorization/Defs.lean (hunk 2 above)
Comment (dupuisf) [reply Mathlib/Analysis/Convex/Majorization/Defs.lean:125]: It's done this way in Bhatia (the reference I gave here). It's not used that much, but it's still quite convenient sometimes.

File: Mathlib/Analysis/Convex/Majorization/Defs.lean (hunk 1 above)
Comment (dupuisf) [reply Mathlib/Analysis/Convex/Majorization/Defs.lean:67]: Do you have a reference for the infinite-dimensional case? I've only been exposed to majorization for finite vectors, and I figured we had to take limits to define e.g.. Schatten spaces.
